US08012976B2
Ethyl 2-(4-(diethoxymethyl)phenyl)-3-(4-(dimethylcarbamoyl)phenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate
To a mixture of 4-formyl-N,N-dimethylbenzamide (960 mg, 5.42 mmol), (E)-4-(4-(diethoxymethyl)benzylideneamino) isobenzofuran-1(3H)-one (1.84 g, 5.42 mmol) and sodium methoxide (499 mg, 21.7 mmol) was added to ethyl propionate (30 mL) and the mixture was stirred at room temperature overnight. Then the resulting mixture was evaporated under reduced pressure and extracted with EtOAc (100 mL×4) and concentrated. This gave the crude product (250 mg). LC-MS (ESI) m/z: 545 (M+1)+.

reactant | 4-formyl-N,N-dimethylbenzamide | 5.42 mmol, 960 mg | C(=O)C1=CC=C(C(=O)N(C)C)C=C1 | C10H11NO2
reactant | (E)-4-(4-(diethoxymethyl)benzylideneamino) isobenzofuran-1(3H)-one | 5.42 mmol, 1.84 g | C(C)OC(C1=CC=C(\C=N\C2=C3COC(C3=CC=C2)=O)C=C1)OCC | C20H21NO4
reactant | sodium methoxide | 21.7 mmol, 499 mg | C[O-].[Na+]
reactant | ethyl propionate | 30 mL | C(CC)(=O)OCC | C5H10O2
product | Ethyl 2-(4-(diethoxymethyl)phenyl)-3-(4-(dimethylcarbamoyl)phenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 250 mg | C(C)OC(C1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C1=CC=C(C=C1)C(N(C)C)=O)=O)C(=O)OCC)OCC | C32H36N2O6
